US07071216B2
The mixture containing 4-[2-(4-nitrophenyl)ethyl]morpholine in methanol with catalytic amount of 10% Pd/C was hydrogenated to yield 4-(2-morpholin-4-ylethyl)phenylamine. MS: MH+=206.

reactant | 4-[2-(4-nitrophenyl)ethyl]morpholine | [N+](=O)([O-])C1=CC=C(C=C1)CCN1CCOCC1 | C12H16N2O3
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-(2-morpholin-4-ylethyl)phenylamine | N1(CCOCC1)CCC1=CC=C(C=C1)N | C12H18N2O
